US06969710B2
N-(5-Fluoro-2-nitrophenyl)-N-methylmethanesulfonamide (Scheme 2, Method 4)
N-(5-fluoro-2-nitrophenyl)methanesulfonamide compound (5 g, 21 mmol), methyl iodide (3 mL) and potassium carbonate (10 g) were stirred together in DMSO (100 mL) at 80° C. overnight. The reaction was not complete and a further 1 mL of methyl iodide was added. After a further 24 hours at 80° C., water (1000 mL) was added. The solution was decanted from a small amount of sticky residue. The product crystallized out from the aqueous solution (48 hours) and was collected by filtration, washed with water and dried. Yield 3.3 g (63%); 1H NMR (400 MHz, CDCl3) δ 3.04 (s, 3 H), 3.30 (s, 3 H), 7.20 (m, 1 H), 7.31 (dd, J=8.54, 2.68 Hz, 1 H), 8.0 (dd, J=9.3, 5.6 Hz, 1 H); MS (ESI+) for C8H9FN2O4S m/z 248 M+.

reactant | N-(5-fluoro-2-nitrophenyl)methanesulfonamide | 21 mmol, 5 g | FC=1C=CC(=C(C1)NS(=O)(=O)C)[N+](=O)[O-] | C7H7FN2O4S
reactant | methyl iodide | 3 mL | CI | CH3I
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1 mL | CI | CH3I
reactant | water | 1000 mL | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | N-(5-Fluoro-2-nitrophenyl)-N-methylmethanesulfonamide | FC=1C=CC(=C(C1)N(S(=O)(=O)C)C)[N+](=O)[O-] | C8H9FN2O4S
